US06369055B1
2-[4-(2-Phenoxazine-10-yl-ethoxy)-benzyl]-malonic acid, disodiumsalt
A 1 N aqueous solution of sodium hydroxide (3 mL) was added to a solution of 2-{4-(2-phenoxazine-10-yl-ethoxy)-benzyl]-malonic acid dimethyl ester (150 mg, 0.3 mmol) in a mixture of methanol (3 mL) and tetrahydrofuran (3 mL). The mixture was stirred for 64 h at room temperature. The title compound (95 mg, 72%) was isolated by filtration and washed with a mixture of MeOH/THF: mp 303-307° C.; 1H NMR (300 MHz, D2O): δ2.96 (d, 2H), 3.35 (t, 1H), 3.75-3.95 (bs, 2H), 4.18 (m, 2H), 6.55-6.90 (m, 10H), 7.15 (d, 2H).

reactant | sodium hydroxide | 3 mL | [OH-].[Na+]
reactant | 2-{4-(2-phenoxazine-10-yl-ethoxy)-benzyl]-malonic acid dimethyl ester | 0.3 mmol, 150 mg | COC(C(C(=O)OC)CC1=CC=C(C=C1)OCCN1C2=CC=CC=C2OC=2C=CC=CC12)=O | C26H25NO6
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-[4-(2-Phenoxazine-10-yl-ethoxy)-benzyl]-malonic acid | 95 mg, 72% | C1=CC=CC=2OC3=CC=CC=C3N(C12)CCOC1=CC=C(CC(C(=O)O)C(=O)O)C=C1 | C24H21NO6
